US08207199B2
A suspension of tert-butyl 4-aminopiperidine-1-carboxylate (3.88 g), oxoacetic acid hydrate (1.48 g), and potassium carbonate (4.46 g) in DMF (60 mL) was stirred at room temperature for 3 hours. Then, 1-{[isocyano(phenyl)methyl]sulfonyl}-4-methylbenzene (3.5 g) was added thereto, followed by stirring at room temperature for 14 hours. The solvent was evaporated under reduced pressure, to the residue were added ethyl acetate and water, and the organic phase was separated. The aqueous phase was extracted with ethyl acetate, the combined organic phase was washed with water and saturated brine, and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=100/0 to 90/10) to obtain tert-butyl 4-(4-phenyl-1H-imidazol-1-yl)piperidine-1-carboxylate (3.1 g).

reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 3.88 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | oxoacetic acid hydrate | 1.48 g | O.O=CC(=O)O
reactant | potassium carbonate | 4.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-{[isocyano(phenyl)methyl]sulfonyl}-4-methylbenzene | 3.5 g | [N+](#[C-])C(S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C15H13NO2S
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(4-phenyl-1H-imidazol-1-yl)piperidine-1-carboxylate | 3.1 g | C1(=CC=CC=C1)C=1N=CN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H25N3O2
